US04666510
Sodium hydride (0.17 g of 50% dispersion in oil; 3.5 mmole) was added to a stirred solution of 3-hydroxy-5-(3-chloro-6-difluoromethoxy-2,4-dimethylphenyl)cyclohex-2-en-1-one (1.0 g; 3.1 mmole) in dimethyl formamide (10 ml) at 80° C. The mixture was kept at 80° C. until the evolution of hydrogen stopped and the temperature was then raised to 120° C. and propionic anhydride (0.5 ml; 3.8 mmole) was added. After 3 hours at 120° C. the mixture was poured into water (100 ml) and extracted with toluene (2×50 ml). The toluene extracts were dried over anhydrous magnesium sulphate and the solvent was removed by evaporation under reduced pressure using a rotary evaporator. The product was purified by chromatography over silica gel (eluant chloroform) to give 3-hydroxy-5-(3-chloro-6-difluoromethoxy-2,4-dimethylphenyl)-2-propionylcyclohex-2-en-1-one as a colourless oil (0.46 g; 39%). Proton magnetic resonance spectrum (CDCl3 ; δ in ppm): 1.20 (3H, t); 2.35 (3H, s); 2.43 (3H, s); 2.4-4.0 (7H, m); 6.54 (1H, t, J=82 Hz); 6.85 (1H, s); 18.25 (1H, s).

reactant | Sodium hydride | 3.5 mmole, 0.17 g | [H-].[Na+]
reactant | 3-hydroxy-5-(3-chloro-6-difluoromethoxy-2,4-dimethylphenyl)cyclohex-2-en-1-one | 3.1 mmole, 1.0 g | OC1=CC(CC(C1)C1=C(C(=C(C=C1OC(F)F)C)Cl)C)=O | C15H15ClF2O3
reactant | hydrogen | [H][H] | H2
reactant | propionic anhydride | 3.8 mmole, 0.5 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 3-hydroxy-5-(3-chloro-6-difluoromethoxy-2,4-dimethylphenyl)-2-propionylcyclohex-2-en-1-one | OC1=C(C(CC(C1)C1=C(C(=C(C=C1OC(F)F)C)Cl)C)=O)C(CC)=O | C18H19ClF2O4
